US08957104B2
Methyl 2-[5-cyano-2-methyl-4-(trifluoromethyl)-1H-indol-1-yl]butanoate
Synthesized in a manner similar to Example 1 using 2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile and methyl 2-bromobutanoate: MS (ESI): m/z 325 (MH+).

reactant | 2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | CC=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C11H7F3N2
reactant | methyl 2-bromobutanoate | BrC(C(=O)OC)CC | C5H9BrO2
product | Methyl 2-[5-cyano-2-methyl-4-(trifluoromethyl)-1H-indol-1-yl]butanoate | C(#N)C=1C(=C2C=C(N(C2=CC1)C(C(=O)OC)CC)C)C(F)(F)F | C16H15F3N2O2
